US05879657
Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly-OSu
Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly (8.00 g, 11.0 mmol), HOSu (1.25 g, 10.8 mmol) and DCC (2.22 g, 10.8 mmol) were dissolved in DMF (75 ml) and stirred at room temperature for 2 days. The solids were removed by filtration and washed with DMF (2×15 ml). The filtrate was concentrated under reduced pressure and the resulting syrup dried under reduced pressure at 40° C. to give a tan solid (6.50 g, 72%). MP=66°-69° C.; FAB-MS: [M+H]=821.

reactant | Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly | 11.0 mmol, 8.00 g | N([C@H](CCCCNC(=O)C(F)(F)F)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)O)C)C(=O)OC(C)(C)C | C29H44F3N7O9S
reactant | HOSu | 10.8 mmol, 1.25 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 10.8 mmol, 2.22 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly-OSu | 6.50 g, 72% | N([C@H](CCCCNC(=O)C(F)(F)F)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)ON1C(=O)CCC1=O)C)C(=O)OC(C)(C)C | C33H47F3N8O11S
